US07723330B2
Step D: Preparation of N-(3-fluoro-4-(3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-1-methyl-2-oxopyrrolidine-3-carboxamide:
A 100 mL round-bottomed flask was charged with N-(4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-1-methyl-2-oxopyrrolidine-3-carboxamide (14.8 mg, 0.0294 mmol) and 2,2,2-trifluoroacetic acid (335 mg, 2.94 mmol). The reaction mixture was stirred at 60° C. until LC-MS showed that the starting material was consumed. The CF3COOH was removed under reduced pressure and purified the resulting residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to give the desired product (10.2 mg, 90.5%). LRMS (APCI neg) m/e 382 (M−1). 1H NMR (400 MHz, CD3OD) δ 8.25 (d, J=6.0 Hz, 1H), 7.85 (dd, J=12.8, 2.4 Hz, 1H), 7.42 (m, 1H), 7.37 (m, 1H), 6.25 (m, 1H), 3.44-3.59 (m, 2H), 3.31 (m, 1H), 2.90 (s, 3H), 2.71 (s, 3H), 2.44-2.49 (m, 1H), 2.30-2.37 (m, 1H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-1-methyl-2-oxopyrrolidine-3-carboxamide | 0.0294 mmol, 14.8 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3C(N(CC3)C)=O)F)C)C=C1 | C27H26FN5O4
reactant | 2,2,2-trifluoroacetic acid | 2.94 mmol, 335 mg | FC(C(=O)O)(F)F | C2HF3O2
product | N-(3-fluoro-4-(3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-1-methyl-2-oxopyrrolidine-3-carboxamide | 10.2 mg, 90.5% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2C)NC(=O)C2C(N(CC2)C)=O | C19H18FN5O3
